US04000302
A mixture of 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (5.1 g.) and methyl isocyanate (2.0 g.) in acetonitrile was heated for 18 hours in a pressure vessel at 100°. After cooling, the solid obtained was collected and recrystallised from isopropyl alcohol-acetonitrile to give N-methyl-N'-[2-((4-methyl-5-imidazolyl) methylthio)ethyl]urea (4.0 g.) m.p. 158°-159°.

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 5.1 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | methyl isocyanate | 2.0 g | CN=C=O | C2H3NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl-N'-[2-((4-methyl-5-imidazolyl) methylthio)ethyl]urea | 4.0 g | CNC(=O)NCCSCC1=C(N=CN1)C | C9H16N4OS
